*163CMQ100 MCE 3/30/98
*Ref: IR Power Semiconductors Product Digest '94
*MCE 100V 160A 3us pkg:TO-249 1,2,3
.SUBCKT 163CMQ100 1 2 3
D1 1 2 DA
D2 3 2 DA
.MODEL DA D (IS=227N RS=263U N=1.7 BV=100 IBV=35M
+ CJO=6.58N VJ=0.75 M=0.333 TT=4.32U EG=.69 XTI=2)
.ENDS 163CMQ100


